US03971819
A. 4-anilino-3-nitro-5-phenylsulphamyl-benzoic acid
To a solution of 4-chloro-3-nitro-5-chlorosulphonyl-benzoic acid (6 g) in ethyl acetate (50 ml), aniline (7.5 g) was added, while stirring. The reaction mixture was stirred for a further 8 hours and filtered. The filtrate was evaporated, and the residue was dissolved in a mixture of aqueous sodium hydrogen carbonate and diethyl ether. The aqueous layer was separated, and the 4-anilino-3-nitro-5-phenylsulphamyl-benzoic acid was precipitated by addition of 4N hydrochloric acid. After recrystallization from aqueous ethanol (25% ethanol in water), the melting point was 249°-250°C.

reactant | 4-chloro-3-nitro-5-chlorosulphonyl-benzoic acid | 6 g | ClC1=C(C=C(C(=O)O)C=C1S(=O)(=O)Cl)[N+](=O)[O-] | C7H3Cl2NO6S
reactant | aniline | 7.5 g | NC1=CC=CC=C1 | C6H7N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-anilino-3-nitro-5-phenylsulphamyl-benzoic acid | N(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(NC1=CC=CC=C1)(=O)=O)[N+](=O)[O-] | C19H15N3O6S
